US07592477B2
To a solution of 2-bromo-4-carboxybenzylamine (20 g, 0.086 mol) in dioxane (250 mL), was added an aqueous solution of Na2CO3 (10%, 350 mL) with stirring. The reaction mixture was cooled to 10° C., added Fmoc-OSu (32 g, 0.096 mol) in portions and allowed to stir at RT for 8 h. The solid precipitate was filtered off and washed with diethyl ether (2×200 mL). The solid was acidified with 3N HCl and filtered under suction. The crude solid was recrystalised from methanol/diethyl ether to give N-(Fmoc)-2-bromo-4-carboxybenzylamine (26 g, 67%) as a solid.

reactant | 2-bromo-4-carboxybenzylamine | 0.086 mol, 20 g | BrC1=C(CN)C=CC(=C1)C(=O)O | C8H8BrNO2
reactant | Na2CO3 | 350 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Fmoc-OSu | 0.096 mol, 32 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | N-(Fmoc)-2-bromo-4-carboxybenzylamine | 26 g, 67% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC1=C(C=C(C=C1)C(=O)O)Br | C23H18BrNO4
